US07456218B2
3-(4-{[4′-(methoxymethoxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}phenyl)propanoic acid
To a solution of methyl 3-{4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate (0.50 g, 1.28 mmol), potassium carbonate (0.35 g, 2.56 mmol) and sodium iodide (0.19 g, 1.28 mmol) in N,N-dimethylformamide (5.0 mL) was added chloromethyl methyl ether (0.13 mL, 1.66 mmol) at room temperature with stirring and the mixture was stirred at 50° C. for 24 hrs. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=3/1) to give a colorless oil. Then, to a mixture of the oil, methanol (4 mL) and tetrahydrofuran (8 mL) was added 1 N aqueous sodium hydroxide solution (2.6 mL) at room temperature with stirring, and the mixture was stirred at the same temperature for 2 hrs. The reaction mixture was adjusted to pH3 with 1 N hydrochloric acid, diluted with ethyl acetate, washed with saturated brine, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-hexane/ethyl acetate=1/2) to give the title compound (0.12 g, yield 22%) as colorless crystals.

reactant | methyl 3-{4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate | 1.28 mmol, 0.50 g | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC)C | C25H26O4
reactant | potassium carbonate | 2.56 mmol, 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.28 mmol, 0.19 g | [I-].[Na+]
reactant | chloromethyl methyl ether | 1.66 mmol, 0.13 mL | COCCl | C2H5ClO
reactant | sodium hydroxide | 1 N, 2.6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | 3-(4-{[4′-(methoxymethoxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}phenyl)propanoic acid | 0.12 g, yield 22% | COCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O)C | C26H28O5
